US08703742B2
2-Bromo-3-ethoxybenzaldehyde
The suspension of 2-bromo-3-hydroxybenzaldehyde (120 g, 0.60 mol), K2CO3 (247 g, 1.79 mol) and bromoethane (135 mL, 1.79 mol) in DMF (700 mL) was stirred at 70° C. for 3 h. After the reaction was quenched with water (50 mL), the resulting mixture was extracted with EtOAc (3×60 mL). The combined organic layers were washed with water (50 mL) and aqueous LiCl solution (50 mL), dried over anhydrous Na2SO4 and concentrated to dryness in vacuo. The residue was purified by column chromatography on silica gel to give the target compound (128 g, yield 94%). 1H NMR (400 MHz, DMSO-d6 δ 10.45 (s, 1H), 7.52-7.50 (d, 1H), 7.38-7.34 (t, 1H), 7.13-7.10 (d, 1H), 4.18-4.13 (m, 2H), 1.53-1.50 (m, 3H).

reactant | 2-bromo-3-hydroxybenzaldehyde | 0.60 mol, 120 g | BrC1=C(C=O)C=CC=C1O | C7H5BrO2
reactant | K2CO3 | 1.79 mol, 247 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoethane | 1.79 mol, 135 mL | BrCC | C2H5Br
solvent | DMF | 700 mL | CN(C)C=O | C3H7NO
product | 2-Bromo-3-ethoxybenzaldehyde | 128 g, yield 94% | BrC1=C(C=O)C=CC=C1OCC | C9H9BrO2
